US08541407B2
Synthesis of 3-phenyl-9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine
To a solution benzoic hydrazide (0.98 g, 7.2 mmol) and p-toluenesulfonic acid monohydrate (0.68 g, 3.6 mmol) in methanol (50 ml) was added a solution of 6-(methylthio)-11H-benzo[e]pyrido[3,2-b][1,4]diazepine (0.87 g, 3.6 mmol) in dichloromethane (25 ml). The reaction mixture was heated at 90° C. for 3 hours. The solvent was removed under reduced pressure and the crude product purified using flash chromatography (SiO2, 2% MeOH in DCM). The desired product, 3-phenyl-9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine, was obtained as a tan solid (0.352 mg, 31%). M.p.=273-275° C.; 400 MHz 1H NMR (CDCl3) δ: 8.20 (d, J=7.8 Hz, 1H), 8.17 (d, J=3.9 Hz, 1H), 7.5-7.3 (m, 6H), 7.18 (t, J=7.6 Hz, 1H), 7.04 (d, J=7.8 Hz, 1H), 7.00 (d, J=8.2 Hz, 1H), 6.79 (dd, J=7.8, 4.7 Hz, 1H), 6.49 (s, 1H); LCMS [M+H]: 312; Calculated for C19H13N5. 0.44 water, C, 71.48; H 4.38; N 21.94, found, C 71.48, H 4.43, N 21.67.

reactant | benzoic hydrazide | 7.2 mmol, 0.98 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | p-toluenesulfonic acid monohydrate | 3.6 mmol, 0.68 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 6-(methylthio)-11H-benzo[e]pyrido[3,2-b][1,4]diazepine | 3.6 mmol, 0.87 g | CSC=1C2=C(NC3=C(N1)C=CC=N3)C=CC=C2 | C13H11N3S
solvent | methanol | 50 ml | CO | CH4O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-phenyl-9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine | C1(=CC=CC=C1)C1=NN=C2N1C1=C(NC3=C2C=CC=C3)N=CC=C1 | C19H13N5
